US07115598B2
b) 5-[(3S)-3-(4-Chloro-2-hydroxyphenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid.
The title compound was synthesized from 5-[(3S)-3-(4-chloro-2-hydroxyphenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester following the procedure for example 1, step b: 1H NMR (400 MHz, Cl3CD) δ 7.99 (d, J=2.1 Hz, 1H), 7.42 (m, 3H), 7.22 (d, J=8.5 Hz, 2H), 6.62 (d, J=8.6 Hz, 1H), 6.50 (d, J=1.9 Hz, 1H), 6.34 (m, 2H), 6.09 (m, 1H), 5.26 (s, 1H), 3.87 (m, 1H), 3.74 (m, 1H), 2.39 (m, 2H), 1.75 (m, 7H). Mass spectrum (LCMS, ESI pos.): Calcd for C28H25Cl2IN2O5: 666.02; found 666.6 (M+H); together with 21 mg 5-[(3S)-3-(4-chloro-2-hydroxyphenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid:

reactant | 5-[(3S)-3-(4-chloro-2-hydroxyphenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid tert-butyl ester | C(C)(C)(C)OC(CCCCN1C([C@@H](N(C(C2=C1C=CC(=C2)I)=O)[C@H](C)C2=CC=C(C=C2)Cl)C2=C(C=C(C=C2)Cl)O)=O)=O | C32H33Cl2IN2O5
reactant | 5-[(3S)-3-(4-chloro-2-hydroxyphenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid | 21 mg | ClC1=CC(=C(C=C1)[C@H]1C(N(C2=C(C(N1[C@H](C)C1=CC=C(C=C1)Cl)=O)C=CC=C2)CCCCC(=O)O)=O)O | C28H26Cl2N2O5
product | 5-[(3S)-3-(4-Chloro-2-hydroxyphenyl)-4-[(R)-1-(4-chlorophenyl)ethyl]-7-iodo-2,5-dioxo-1,4-benzodiazepin-1-yl]valeric acid | ClC1=CC(=C(C=C1)[C@H]1C(N(C2=C(C(N1[C@H](C)C1=CC=C(C=C1)Cl)=O)C=C(C=C2)I)CCCCC(=O)O)=O)O | C28H25Cl2IN2O5
